US04226775
1-[3-(Acetylthio)-3-(2-naphthoyl)propionyl]-L-proline
To 30 ml. of ethanol cooled in an ice bath is added 380 mg. of sodium hydride (60% dispersion in oil), and 0.67 ml. of thiolacetic acid. After stirring for 30 minutes, 2.55 g. of 1-[3-bromo-3-(2-naphthoyl)propionyl]-L-proline is added and the mixture is stirred for 18 hours. The solvent is removed under vacuum. The residue is chromatographed on a silica gel column with ethyl acetate-hexane-acetic acid (7.5:2.5:0.2) as solvent to give 1.2 g. of the product of the example, as a white glass, [α]D -36(c, 0.96 ethanol).

reactant | sodium hydride | [H-].[Na+]
reactant | thiolacetic acid | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | 1-[3-bromo-3-(2-naphthoyl)propionyl]-L-proline | BrC(CC(=O)N1[C@H](C(=O)O)CCC1)C(=O)C1=CC2=CC=CC=C2C=C1 | C19H18BrNO4
reactant | ethanol | C(C)O | C2H6O
product | 1-[3-(Acetylthio)-3-(2-naphthoyl)propionyl]-L-proline | C(C)(=O)SC(CC(=O)N1[C@H](C(=O)O)CCC1)C(=O)C1=CC2=CC=CC=C2C=C1 | C21H21NO5S
